US04983596
A solution of (2S,4R)-1-benzyloxycarbonyl-2-(2-oxoethyl)oxymethyl-4-methanesulfonyloxypyrrolidine (15.7 g) and ethyl 2-triphenylphosphoranylideneacetate (16.2 g) in toluene (150 ml) was heated under refluxing for 3 hours. The solvent was removed in vacuo to give a residue, which was chromatographed on silica gel (700 ml) eluting with a mixture of hexane and ethyl acetate (2:1-1:1 V/V) to give (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-propenyl}oxymethyl]-4-methanesulfonyloxypyrrolidine (12.86 g).

reactant | (2S,4R)-1-benzyloxycarbonyl-2-(2-oxoethyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 15.7 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC=O | C16H21NO7S
reactant | ethyl 2-triphenylphosphoranylideneacetate | 16.2 g | C1(=CC=CC=C1)P(=CC(=O)OCC)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | (2S,4R)-1-benzyloxycarbonyl-2-[{3-(ethoxycarbonyl)-2-propenyl}oxymethyl]-4-methanesulfonyloxypyrrolidine | 12.86 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC=CC(=O)OCC | C20H27NO8S
